US08535642B2
5,5′-(2,7-dihydroxyoctane-1,8-diyl)bis(acetylazanediyl)bis(N1,N3-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide)
To a stirred solution of water/methanol (4.9 ml, 2.5 ml) and potassium hydroxide (0.49 g, 8.7 mmol) at 40° C. was added 5-acetylamino-N,N′-bis-(2,3-dihydroxypropyl)-2,4,6-triiodo isophthalamide (5.0 g, 6.7 mmol). To the clear solution was then added boric acid (0.29 g, 4.6 mmol). The mixture was cooled to room temperature and pH adjusted to 12.6. 2-(4-oxiran-2-ylbutyl)oxirane (0.327 g, 2.3 mmol) was added. The pH of the solution was adjusted to the interval 12.6-13. The reaction was left over weekend. To the solution was added HCl (18%) to pH 4. Salts were removed by treatment with ion exchanger AMB200C and IRA67. The solution was filtered from the resin and evaporated. An aliquot of the crude material was purified by preparative HPLC (column Phenomenex Luna C18(2) 10 μm 250×50.0 mm, solvents: A=water and B=acetonitrile; gradient 07-13% B over 60 min; flow 50.0 ml/min, UV detection at 214 nm and 254 nm). The product was obtained in 639 mg after lyophilisation. Analysis by LC-MS (column Agilent Zorbax SB-Aq 3.5 μm 3.0×100 mm, solvents: A=water/0.1% formic acid and B=acetonitrile/0.1% formic acid; gradient 0-30% B over 20 min; flow 0.3 ml/min, UV detection at 214 and 254 nm, ESI-MS) gave two isomeric peaks eluting between 12.50-12.85 minutes with m/z 1636.6 (MH+) corresponding to the structure.

reactant | potassium hydroxide | 8.7 mmol, 0.49 g | [OH-].[K+]
reactant | 5-acetylamino-N,N′-bis-(2,3-dihydroxypropyl)-2,4,6-triiodo isophthalamide | 6.7 mmol, 5.0 g | C(C)(=O)NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I | C16H20I3N3O7
reactant | boric acid | 4.6 mmol, 0.29 g | B(O)(O)O | BH3O3
reactant | 2-(4-oxiran-2-ylbutyl)oxirane | 2.3 mmol, 0.327 g | O1C(C1)CCCCC1OC1 | C8H14O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water methanol | 4.9 ml | O.CO
product | 5,5′-(2,7-dihydroxyoctane-1,8-diyl)bis(acetylazanediyl)bis(N1,N3-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide) | OC(CN(C(C)=O)C=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I)CCCCC(CN(C(C)=O)C=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I)O | C40H54I6N6O16
